US07714009B2
4-[(5-Chloro-2-[[7-(dipropylamino)-1-methyl-1H-benzimidazol-2-yl]amino]phenoxy)butanenitrile
To a solution of 80 mg (0.16 mmol) of N2-[2-(3-bromopropoxy)-4-chlorophenyl]-1-methyl-N7,N7-dipropyl-1H-benzimidazole-2,7-diamine in 2 mL of dimethylsulfoxide was added 13 mg (0.19 mmol) of potassium cyanide. The reaction was stirred at room temperature for several hours, diluted with 10 mL water, and extracted twice with 10 mL ethyl acetate. The organics were washed with water, dried over sodium sulfate, filtered, concentrated in vacuo, and purified by flash chromatography eluting with a solution of 20% acetone/hexanes to give 75 mg (100%) of the title compound.

reactant | N2-[2-(3-bromopropoxy)-4-chlorophenyl]-1-methyl-N7,N7-dipropyl-1H-benzimidazole-2,7-diamine | 0.16 mmol, 80 mg | BrCCCOC1=C(C=CC(=C1)Cl)NC1=NC2=C(N1C)C(=CC=C2)N(CCC)CCC | C23H30BrClN4O
reactant | potassium cyanide | 0.19 mmol, 13 mg | [C-]#N.[K+]
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | water | 10 mL | O | H2O
product | (5-Chloro-2-[[7-(dipropylamino)-1-methyl-1H-benzimidazol-2-yl]amino]phenoxy)butanenitrile | 75 mg, 100% | ClC=1C=CC(=C(OC(C#N)CC)C1)NC1=NC2=C(N1C)C(=CC=C2)N(CCC)CCC | C24H30ClN5O
